US07335660B2
(1S)-1-(2-{[tert-Butyl(dimethyl)silyl]oxy}ethyl)-N-(diphenylmethylene)-3,4-dihydro-1H-2-benzopyran-6-amine was deprotected with aqueous acetic acid, as described for the preparation of (1S)-1-(2-hydroxyethyl)-3,4-dihydro-1H-2-benzopyran-6-carboxamide, to yield 2-{(1S)-6-[(diphenylmethylene)amino]-3,4-dihydro-1H-2-benzopyran-1-yl}ethanol.

reactant | (1S)-1-(2-{[tert-Butyl(dimethyl)silyl]oxy}ethyl)-N-(diphenylmethylene)-3,4-dihydro-1H-2-benzopyran-6-amine | [Si](C)(C)(C(C)(C)C)OCC[C@@H]1OCCC2=C1C=CC(=C2)N=C(C2=CC=CC=C2)C2=CC=CC=C2 | C30H37NO2Si
reactant | (1S)-1-(2-hydroxyethyl)-3,4-dihydro-1H-2-benzopyran-6-carboxamide | OCC[C@@H]1OCCC2=C1C=CC(=C2)C(=O)N | C12H15NO3
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 2-{(1S)-6-[(diphenylmethylene)amino]-3,4-dihydro-1H-2-benzopyran-1-yl}ethanol | C1(=CC=CC=C1)C(C1=CC=CC=C1)=NC=1C=CC2=C(CCO[C@H]2CCO)C1 | C24H23NO2
